US04198419
2.6 g of 99% sodium hydride are added portionwise to a solution of 4.4 g of 2-(phenylthio)phenylacetonitrile in 50 ml of dimethylformamide. The resulting reddish brown mixture is stirred for 30 minutes before adding dropwise a solution of 4.0 g of mechlorethamine hydrochloride in 50 ml of dimethylformamide, maintaining gas evolution at a slow rate. After total addition, the mixture is stirred at 80°-85° C. for 15 hours. Thereafter, 100 g of ice are added before the mixture is extracted thrice with ether. The combined ether extracts are dried over potassium carbonate and then the solvent is removed under vacuum leaving a brownish oil. The oil is dissolved in a small amount of ether and passed through, with additional ether, an alumina column which is packed in ether. The effluent is concentrated leaving an oil which is converted to its hydrochloride which is recrystallized from an acetone-ether mixture, leaving 4-cyano-1-methyl-4-(2-phenylthiophenyl)piperidine hydrochloride.

reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | 2-(phenylthio)phenylacetonitrile | 4.4 g | C1(=CC=CC=C1)SC1=C(C=CC=C1)CC#N | C14H11NS
reactant | mechlorethamine hydrochloride | 4.0 g | CN(CCCl)CCCl.Cl
reactant | hydrochloride | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 4-cyano-1-methyl-4-(2-phenylthiophenyl)piperidine hydrochloride | Cl.C(#N)C1(CCN(CC1)C)C1=C(C=CC=C1)SC1=CC=CC=C1 | InChI=1S/C19H20N2S.ClH/c1-21-13-11-19(15-20,12-14-21)17-9-5-6-10-18(17)22-16-7-3-2-4-8-16;/h2-10H,11-14H2,1H3;1H
